US07589232B2
Step a) Formation of 6-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
The titled compound was prepared following the procedure A using 4-[(4-butylphenyl)ethynyl]benzaldehyde and 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate as a yellow oil (83%). 1H NMR (CDCl3, 300 MHz) δ 7.91 (s, 1H), 7.55 (m, 1H), 7.47 (d, J=7.9 Hz, 2H), 7.42 (d, J=7.9 Hz, 2H), 7.30 (d, J=8.3 Hz, 2H), 7.14 (m, 2H), 6.92 (d, J=8.3 Hz, 1H), 3.80 (s, 2H), 3.77 (s, 2H), 2.61 (m, 2H), 1.72 (s, 6H), 1.65-1.54 (m, 2H), 1.43-1.10 (m, 2H), 0.92 (m, 3H). M+ (ESI): 454.4. HPLC, Rt: 4.23 min (Purity: 100%).

reactant | 4-[(4-butylphenyl)ethynyl]benzaldehyde | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C19H18O
reactant | 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate | C(C)(=O)O.NCC1=CC2=C(OC(OC2=O)(C)C)C=C1
product | 6-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C30H31NO3
